US04921962
Di-(1-nonyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A solution of 55 grams (427 mmol) of 70% aqueous tert-butyl hydroperoxide is added over 85 minutes to a mixture of 25 grams (52 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 1.5 grams (10.4 mmol) of molybdenum trioxide and 190 ml of a nonane fraction (b.p. 148°-156° C., Fluka) which mixture is first heated to 60° C. During the addition, the reaction temperature is slowly increased till the mixture begins to reflux. Water is collected in a Dean-Stark trap. The reaction mixture is heated at reflux for six hours after the addition of hydroperoxide is complete. The reaction mixture is then cooled to room temperature. The solids present are removed by filtration and washed with 25 ml of heptane. The filtrate is stirred for two hours with a solution of 26 grams of sodium sulfite in 500 ml of water. The resulting thick solution is diluted with ethyl acetate (300 ml) and 100 ml of water. The organic layer is separated, dried over anhydrous magnesium sulfate and concentrated to an oil. Flash chromatography (silica gel; 100:3 heptane:ethyl acetate) affords 26.6 grams (67% yield) of a colorless oil as the title compound.

reactant | tert-butyl hydroperoxide | 427 mmol, 55 grams | C(C)(C)(C)OO | C4H10O2
reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 52 mmol, 25 grams | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | nonane | 190 ml | CCCCCCCCC | C9H20
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | molybdenum trioxide | 10.4 mmol, 1.5 grams | [Mo](=O)(=O)=O
product | Di-(1-nonyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCCC)(C)C | C46H88N2O6
